US08314088B2
8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
To a solution of 2-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}ethanol (3.425 g) in THF (100 mL) was added potassium tert-butoxide (1.48 g) under ice-cooling, and the mixture was stirred for 1 hr under ice-cooling. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 5→25% ethyl acetate/hexane) to give the title compound (2.59 g, 86%) as a pale-yellow oil.

reactant | 2-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}ethanol | 3.425 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)Cl | C14H15Cl2N3O
reactant | potassium tert-butoxide | 1.48 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 2.59 g, 86% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)Cl | C14H14ClN3O
